US07553836B2
Step B. Preparation of 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid
A 95:5 EtOH/H2O solution (5.0 mL) containing methyl 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylate (120 mg, 0.51 mmol) and NaOH (1.53 mol) was refluxed for 2 h whereupon the EtOH was removed in vacuum. After removal of traces of EtOH by azotroping twice with water, acidification to pH 3 with 1 M HCl generated a white precipitate. The precipitate was collected by filtration, washed with water, and dried in vacuum to give 110 mg (98%) of the title compound as a white solid. MS (ESI) 222 (M+H)+.

reactant | EtOH H2O | 5.0 mL | CCO.O
reactant | methyl 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylate | 0.51 mmol, 120 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)OC | C12H10ClNO2
reactant | NaOH | 1.53 mol | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | 110 mg, 98% | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)O | C11H8ClNO2
